US07405221B2
2-Cyclobutylmethoxy-4-methylsulfonyl-5-(4-chlorophenyl)-6-(2,4-dichlorophenyl)pyrimidine (the Mrf product from Example 83), (40 mg, 0.08 mmol) was reacted with 2 equivalents each of n-butyl lithium and 3-hydroxy-5-chloro-pyridine according to the procedure described in Reference Examples 6 and 7 to afford 2-cyclobutylmethoxy-4-(5-chloro-3-pyridyloxy)-5-(4-chlorophenyl)-6-(2,4-dichlorophenyl)pyrimidine: HPLC/MS: m/e=546 (M++1); Rt=5.20 min. 1H-NMR 400 MHz (CDCl3): δ 1.80-1.98 (m, 4H), 2.10-2.11(m, 2H), 2.74 (m, 1H), 4.20 (d, J=7 Hz, 2H), 7.10-7.18 (m, 3H), 7.20-7.28 (m, 3H), 7.35 (d, J=2 Hz, 1H), 7.63 (m, 1H), 8.05 (d, J=2 Hz, 1H), 8.10 (d, J=2 Hz, 1H).

reactant | 2-Cyclobutylmethoxy-4-methylsulfonyl-5-(4-chlorophenyl)-6-(2,4-dichlorophenyl)pyrimidine | C1(CCC1)COC1=NC(=C(C(=N1)S(=O)(=O)C)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C22H19Cl3N2O3S
reactant | n-butyl lithium | 2 equivalents | C(CCC)[Li]
reactant | 3-hydroxy-5-chloro-pyridine | OC=1C=NC=C(C1)Cl | C5H4ClNO
product | 2-cyclobutylmethoxy-4-(5-chloro-3-pyridyloxy)-5-(4-chlorophenyl)-6-(2,4-dichlorophenyl)pyrimidine | C1(CCC1)COC1=NC(=C(C(=N1)OC=1C=NC=C(C1)Cl)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C26H19Cl4N3O2
